US06794389B2
N-tert-Butoxycarbonyl-1,6-hexanediamine
A solution of 5.9 g of 1,6-hexanediamine in 30 mL of tetrahydrofuran was combined with 30 mL of a 2% aqueous solution of sodium hydroxide, and cooled to 0° C. This was treated dropwise with a solution of 4.46 g of di-tert-butyl dicarbonate in 30 mL of tetrahydrofuran, and stirred for 15 hours while gradually warming to room temperature. The reaction solution was combined with water, extracted with ethyl acetate, dried over sodium sulfate, and then concentrated. The residue was purified by chromatography on silica gel to obtain 3.1 g of the desirable compound.

reactant | 1,6-hexanediamine | 5.9 g | C(CCCCCN)N | C6H16N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-1,6-hexanediamine | 3.1 g | C(C)(C)(C)OC(=O)NCCCCCCN | C11H24N2O2
